US04031078
32 g of (+)-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one are dissolved in 450 ml of absolute dioxane and treated with 21 g of phosphorus pentasulfide and 15 ml of triethylamine. The mixture is heated to reflux for 20 minutes, cooled with ice and concentrated on a rotary evaporator. The residue is treated with 10% bicarbonate solution and ethyl acetate and the ethyl acetate phase is washed twice with 10% bicarbonate solution, dried with sodium sulfate, filtered and concentrated. Crystallisation of the residue from ethanol yields racemate. By concentration of the mother liquor, there is obtained crude (+)-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-thione which exhibits a rotation of [α]25D =+319.1° (in methylene chloride, 1%).

reactant | (+)-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one | 32 g | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=C(C=C2)[N+](=O)[O-])=O)C | C16H12FN3O3
reactant | phosphorus pentasulfide | 21 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 450 ml | O1CCOCC1 | C4H8O2
product | (+)-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-thione | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=C(C=C2)[N+](=O)[O-])=S)C | C16H12FN3O2S
